US08609656B2
Preparation of 4-(2-hydroxyethyl)-3-(trifluoromethyl)aniline
In 10 mL of anhydrous tetrahydrofuran, 2.47 g (13.2 mmol) of 3-trifluoromethyl-4-vinylaniline was dissolved, and 2.75 mL (30.0 mmol) of borane-dimethyl sulfide complex was added dropwise thereto in an argon atmosphere, and the mixture solution was stirred at room temperature four hours. To the reaction solution, 5 mL of a 1N sodium hydroxyl aqueous solution and 3 mL of a 30% hydrogen peroxide aqueous solution were added and the mixture solution was stirred at 0° C. for one hour. The reaction solution was concentrated and the residue was partitioned between water and ethyl acetate, and the organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The product was purified by a silica gel column (n-hexane:ethyl acetate=2:1) to obtain 1.3 g (48%) of a target product as a pale yellow oil.

reactant | 3-trifluoromethyl-4-vinylaniline | 13.2 mmol, 2.47 g | FC(C=1C=C(N)C=CC1C=C)(F)F | C9H8F3N
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(2-hydroxyethyl)-3-(trifluoromethyl)aniline | 1.3 g, 48% | OCCC1=C(C=C(N)C=C1)C(F)(F)F | C9H10F3NO
